US08106190B2
Ethylene glycol and sodium hydroxide were added to 4-chloro-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzonitrile, followed by stirring at 190° C. for 5 hours. After neutralizing the reaction liquid by adding hydrochloric acid, the organic layer was extracted with chloroform and the solvent was evaporated to obtain 4-chloro-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoic acid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-chloro-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzonitrile | ClC1=CC(=C(C#N)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C17H22ClN3
reactant | hydrochloric acid | Cl | ClH
reactant | Ethylene glycol | C(CO)O | C2H6O2
product | 4-chloro-2-{[(1S*,2S*)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C17H23ClN2O2
